US08871796B2
Ethyl [5-(4-trifluoromethylphenoxy)-3-(3-{3-[(tert-butyloxycarbonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]acetate (98 mg, 0.18 mmol) was dissolved in 0.5 mL of EtOH and to the stirred solution was added 1N aqueous NaOH solution (0.35 mL, 0.35 mmol). The mixture was stirred for 20 min and then 0.35 mL of 1N aqueous HCl was added dropwise. The solvents were removed under reduced pressure and the residue was partitioned between EtOAc and 10% aqueous citric acid solution. The organic phase was washed with brine, dried over MgSO4, filtered, and the solvent was removed under reduced pressure to give [5-(4-trifluoromethylphenoxy)-3-(3-{3-[(tert-butyloxycarbonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]acetic acid as a foam. Calcd (M+1)+: 534.5. Found: 534.8

reactant | Ethyl [5-(4-trifluoromethylphenoxy)-3-(3-{3-[(tert-butyloxycarbonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]acetate | 0.18 mmol, 98 mg | FC(C1=CC=C(OC2=CC(=NN2CC(=O)OCC)C2=CC(=CC=C2)C2(COC2)NC(=O)OC(C)(C)C)C=C1)(F)F | C28H30F3N3O6
reactant | NaOH | 0.35 mmol, 1N, 0.35 mL | [OH-].[Na+]
reactant | HCl | 1N, 0.35 mL | Cl | ClH
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | [5-(4-trifluoromethylphenoxy)-3-(3-{3-[(tert-butyloxycarbonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]acetic acid | FC(C1=CC=C(OC2=CC(=NN2CC(=O)O)C2=CC(=CC=C2)C2(COC2)NC(=O)OC(C)(C)C)C=C1)(F)F | C26H26F3N3O6
